US05612377
Using the general method of Compound 42 Part B, 4-bromoheptane (5.84 g, 32.6 mmole) was reacted with 1-benzyloxy-3-phenylurea (7.3 g, 30.2 mmole) to provide about 4 g of 1-benzyloxy-1-(1-propylbutyl)-3-phenylurea.

reactant | 4-bromoheptane | 32.6 mmole, 5.84 g | BrC(CCC)CCC | C7H15Br
reactant | 1-benzyloxy-3-phenylurea | 30.2 mmole, 7.3 g | C(C1=CC=CC=C1)ONC(=O)NC1=CC=CC=C1 | C14H14N2O2
product | 1-benzyloxy-1-(1-propylbutyl)-3-phenylurea | about 4 g | C(C1=CC=CC=C1)ON(C(=O)NC1=CC=CC=C1)C(CCC)CCC | C21H28N2O2
